US07268142B2
(4-bromo-benzylamino)-acetic acid
To (4-bromo-benzylamino)-acetic acid methyl ester (100 mg, 0.342 mmol) in water (3 mL) was added lithium hydroxide (57 mg, 0.684 mmol). After 4 hours the solution was partially quenched with 1 M HCl (1.5 mL) to give a solution pH of ca 8.5. The pH of the solution was carefully adjusted to pH 5 by the addition of 3-4 drops of 1 M HCl. Stirring overnight yielded a white precipitate. This was isolated via filtration, rinsing with a small amount of cold water, to give the desired zwitterion.

reactant | (4-bromo-benzylamino)-acetic acid methyl ester | 0.342 mmol, 100 mg | COC(CNCC1=CC=C(C=C1)Br)=O | C10H12BrNO2
reactant | lithium hydroxide | 0.684 mmol, 57 mg | [OH-].[Li+]
solvent | water | 3 mL | O | H2O
product | (4-bromo-benzylamino)-acetic acid | pH of ca 8.5 | BrC1=CC=C(CNCC(=O)O)C=C1 | C9H10BrNO2
